US05010193
57.7 g (0.3 mol) of 2-tert-butyl-5-hydroxy-3,4,5,6-tetrahydropyrimidine hydrochloride are dissolved in 100 ml of water and 20 ml of 45 percent strength sodium hydroxide solution are added. The precipitated product is filtered off with suction. 32.7 g (70% of theory) of 2-tert-butyl-5-hydroxy-3,4,5,6-tetrahydropyrimidine are thus obtained in the form of colorless crystals having melting point 210° C.

reactant | 2-tert-butyl-5-hydroxy-3,4,5,6-tetrahydropyrimidine hydrochloride | 0.3 mol, 57.7 g | Cl.C(C)(C)(C)C1=NCC(CN1)O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2-tert-butyl-5-hydroxy-3,4,5,6-tetrahydropyrimidine | 32.7 g, 70% | C(C)(C)(C)C1=NCC(CN1)O | C8H16N2O
